US09422298B2
SnCl2 (27.5 g, 122 mmol) was added to a suspension of 6-chloro-3-nitropicolinonitrile (5.60 g, 30.5 mmol) in EtOH (40 mL) at room temperature. The reaction mixture was heated at 90° C. for 2 h. After cooled to room temperature, the solvent was removed under reduced pressure, EtOAc was poured into the residue. The mixture was neutralized with aq. Na2HCO3 and aq. NaOH until pH ˜9, filtered through a Celite pad. The filtrate was extracted with EtOAc, dried over Na2SO4, and concentrated in vacuo to give 3-amino-6-chloropicolinamide (5.00 g, 96%) as a yellow solid which was used for the next step without further purification. 1H-NMR (DMSO-d6, Varian 400 MHz) δ 7.01 (2H, brs), 7.22 (1H, d, J=8.8 Hz), 7.30 (1H, d, J=8.8 Hz), 7.42 (1H, brs), 7.71 (1H, brs). m/z=171.98 [M+1]+.

reactant | SnCl2 | 122 mmol, 27.5 g | Cl[Sn]Cl
reactant | 6-chloro-3-nitropicolinonitrile | 30.5 mmol, 5.60 g | ClC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | EtOH | 40 mL | CCO | C2H6O
product | 3-amino-6-chloropicolinamide | 5.00 g, 96% | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
